US08058299B2
A mixture of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (0.67 g, 2.6 mmol), 4-(5-amino-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.76 g, 2.6 mmol), bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (PyBrop, 1.45 g, 3.1 mmol), and diisopropylethylamine (0.9 mL, 5.2 mmol) in anhydrous dichloromethane (15 mL) was stirred at room temperature overnight. The reaction mixture was then concentrated and purified by flash chromatography (Merck silica gel 60, 230-400 mesh, eluted with ethyl acetate and hexane) to give 4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-ylamino}-piperidine-1-carboxylic acid tert-butyl ester (0.78 g, 56%) as a white solid. LCMS calcd for C26H28F3N5O4 (m/e) 531, obsd 532 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 2.6 mmol, 0.67 g | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 4-(5-amino-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.6 mmol, 0.76 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)N | C15H24N4O2
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 3.1 mmol, 1.45 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | diisopropylethylamine | 5.2 mmol, 0.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-ylamino}-piperidine-1-carboxylic acid tert-butyl ester | 0.78 g, 56% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C26H28F3N5O4
